US08431563B2
n-BuLi (0.59 mL, 2.5 M solution in toluene, 1.5 mmol) was added to a stirring mixture of methyltriphenylphosphonium bromide (0.53 g, 1.5 mmol) and THF (3.1 mL) at room temperature under a nitrogen atmosphere. After 30 min, a mixture of 2,2,2-trifluoro-1-(4-(4-(2-thiophenylsulfonyl)-1-piperazinyl)phenyl)ethanone (0.50 g, 1.2 mmol) and THF (3.1 mL) was added. After an additional 1 h, saturated aqueous ammonium chloride (25 mL) was added, the mixture was partitioned between EtOAc (50 mL) and saturated aqueous ammonium chloride (25 mL). The layers were separated, the organic material was washed sequentially with saturated aqueous ammonium chloride (25 mL) and brine (25 mL), and dried (Na2SO4) purified via column chromatography (10 g of silica, 20% EtOAc in hexanes) to provide 1-(2-thiophenylsulfonyl)-4-(4-(1-(trifluoromethyl)ethenyl)phenyl)piperazine (0.23 g) as an off-white solid.

reactant | n-BuLi | 1.5 mmol, 2.5 M, 0.59 mL | [Li]CCCC
reactant | 2,2,2-trifluoro-1-(4-(4-(2-thiophenylsulfonyl)-1-piperazinyl)phenyl)ethanone | 1.2 mmol, 0.50 g | FC(C(=O)C1=CC=C(C=C1)N1CCN(CC1)S(=O)(=O)C=1SC=CC1)(F)F | C16H15F3N2O3S2
reactant | ammonium chloride | 25 mL | [Cl-].[NH4+]
catalyst | methyltriphenylphosphonium bromide | 1.5 mmol, 0.53 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | 3.1 mL | C1CCOC1 | C4H8O
solvent | THF | 3.1 mL | C1CCOC1 | C4H8O
product | 1-(2-thiophenylsulfonyl)-4-(4-(1-(trifluoromethyl)ethenyl)phenyl)piperazine | 0.23 g | S1C(=CC=C1)S(=O)(=O)N1CCN(CC1)C1=CC=C(C=C1)C(=C)C(F)(F)F | C17H17F3N2O2S2
